US05516774
10,11-Dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5-one
A mixture of 1.5 g of N-(2-nitrobenzoyl)pyrrole-2-carboxaldehyde in 50 ml of ethyl acetate, 2 drops of concentrated HCl and 0.3 g of 10% Pd/C is shaken in a Parr apparatus under hydrogen pressure for 1.75 hours. The mixture is filtered, 0.4 g of 10% Pd/C added and the mixture shaken in a Parr apparatus under hydrogen pressure for 2 hours. The reaction mixture is filtered through diatomaceous earth and the filtrate concentrated in vacuo to give 1.0 g of a yellow oil. The residue is purified on thick layer chromatography plates by elution with 4:1 ethyl acetate:hexane to give 107 mg of the desired product as an oily solid.

reactant | N-(2-nitrobenzoyl)pyrrole-2-carboxaldehyde | 1.5 g | [N+](=O)([O-])C1=C(C(=O)N2C(=CC=C2)C=O)C=CC=C1 | C12H8N2O4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | HCl | 2 drops | Cl | ClH
catalyst | Pd/C | 0.3 g | [Pd] | Pd
product | 10,11-Dihydro-5H-pyrrolo[2,1-c][1,4]benzodiazepin-5-one | 1.0 g | C=1C=CN2C1CNC1=C(C2=O)C=CC=C1 | C12H10N2O
